US05753657
A mixture of 10-(2-furylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 100 ml of dimethylformamide and 0.15 g of 10% palladium on charcoal is hydrogenated by flushing with a stream of hydrogen at a temperature in the region of 20° C. for 2 hours. The catalyst is then filtered off under inert atmosphere and the solvent is evaporated off. The brown solid obtained (2 g) is purified by trituration in 50 ml of acetone, filtration and crystallization of the insoluble material obtained (1 g) in 80 ml of methanol. After filtration and drying at 80° C., 0.48 g of 10-(2-furylmethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one is obtained, in the form of a light brown solid melting above 260° C. (Analysis % calculated C: 71.28, H: 4.32, N: 13.85, O: 10.55, % found C: 71.5, H: 4.2, N: 14.0).

reactant | 10-(2-furylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | O1C(=CC=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C18H11N3O2
catalyst | palladium on charcoal | 0.15 g | [Pd] | Pd
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 10-(2-furylmethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 0.48 g | O1C(=CC=C1)CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C18H13N3O2
